US06740647B1
d) 4-Boc-Aminomethyl-2-cyanothiazole
4.95 g (19.24 mmol) of 4-Boc-aminomethyl-2-carbamoylthiazole were introduced into 90 ml of methylene chloride and 16.7 ml (97.44 mmol) of diisopropylethylamine, the mixture was cooled to 0° C., a solution of 6.35 ml of trifluoroacetic anhydride in 10 ml of methylene chloride was added dropwise at 0 to 5° C., and the mixture was subsequently warmed to room temperature (TLC check). Then, 25 ml of water were added, the mixture was stirred for 30 minutes at room temperature and brought to pH 2.5 with 10% strength citric acid solution, and the organic phase was washed repeatedly, dried using magnesium sulfate and concentrated in vacuo. 5.4 g of viscous, pale brown crude product resulted, which were employed in the next step without further purification.

reactant | 4-Boc-aminomethyl-2-carbamoylthiazole | 19.24 mmol, 4.95 g | C(=O)(OC(C)(C)C)C=1N=C(SC1CN)C(N)=O | C10H15N3O3S
reactant | diisopropylethylamine | 97.44 mmol, 16.7 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | trifluoroacetic anhydride | 6.35 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 90 ml | C(Cl)Cl | CH2Cl2
solvent | water | 25 ml | O | H2O
product | 4-Boc-Aminomethyl-2-cyanothiazole | C(=O)(OC(C)(C)C)C=1N=C(SC1CN)C#N | C10H13N3O2S
